US06121271
5-[4-(2,3-Dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diethyl-phenoxysulfonyl]-4-hydroxy-thiophene-3-carboxylic acid
At -78° C., to a stirred solution of 5-[4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diethyl-phenoxysulfonyl]-4-methoxy-thiophene-3-carboxylic acid (0.374 g, 0.644 mmol) in CH2Cl2 (3.74 mL) was added 1M boron tribromide/CH2Cl2 (2.00 mL). After the addition was complete, the dry ice/acetone bath was replaced with an ice water bath and the reaction was stirred for 1.5 h. The reaction was carefully quenched into crushed ice, diluted with H2O and extracted with EtOAc. The combined organic extracts were dried (MgSO4) and concentrated. The crude product was purified on Biotage KP-Sil eluting with 40% EtOAc/hexane to give 0.300 g (82%) of the title compound as an off white solid. 1H NMR (DMSO-d6) δ 1.09 (t, 6 H), 1.59 (s, 3 H), 2.41 (s, 3 H), 2.62-2.73 (m, 4 H), 7.16 (s, 2 H), 7.38-7.47 (m, 3 H), 7.98 (d, 1 H), 8.49 (s, 1 H), 8.68 (s, 1 H).

reactant | 5-[4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diethyl-phenoxysulfonyl]-4-methoxy-thiophene-3-carboxylic acid | 0.644 mmol, 0.374 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(OS(=O)(=O)C1=C(C(=CS1)C(=O)O)OC)C(=C2)CC)CC)C | C30H28O6S3
reactant | boron tribromide CH2Cl2 | 1M, 2.00 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | CH2Cl2 | 3.74 mL | C(Cl)Cl | CH2Cl2
product | 5-[4-(2,3-Dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diethyl-phenoxysulfonyl]-4-hydroxy-thiophene-3-carboxylic acid | 0.300 g, 82% | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(OS(=O)(=O)C1=C(C(=CS1)C(=O)O)O)C(=C2)CC)CC)C | C29H26O6S3
